* H:\2021\Design (E) 344\LTspice\E344_19872887_A2.asc
V1 N001 0 PWL file=PowerSupplyPWL.csv
RSenseBattery BatteryTerminal N007 1m
RSenseSupply VSupply N001 1m
C1 N006 0 10m IC=6
V2 ChargeOn 0 PWL file=ChargeOnPWL.csv
XU1 N009 N003 N004 LT317A
XM1 N010 N005 N002 irf9z24n irf9z24n
M2 N011 ChargeOn 0 0 2N7002
D1 N010 BatteryTerminal 1N5819
D2 VSupply N004 1N5819
S1 P001 N007 N008 0 MYSW
V3 N008 0 PWL file=SwitchPWL.csv
S2 N006 N007 0 N008 MYSW2
V4 P001 0 6
R3 N003 N002 0.333
R2 N002 N009 1k
R1 N009 0 4.7k
R4 N005 N011 7k
R5 N002 N005 18k
R6 ChargeOn 0 1000k
.model D D
.lib C:\Users\19872887\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\19872887\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 {transtop} 0 {timestep}
.include A1cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only VSupply for power\n  * Use ChargeOn to control charging\n  * Use BatteryTerminal as your battery's \n          positive terminal
* Config file:
* Analysis setup:
* Battery
* Power\nsupply
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\n=============================
.inc irf9z24n.lib
.model MYSW SW(Ron=0.1m Vt=.5 Vh=0)
.model MYSW2 SW(Ron=0.1m Vt=-.5 Vh=0)
* ChargeOn is the digital signal used \nfor driving your high-side switching circuit.
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
.lib LTC.lib
.backanno
.end
